US06121258
1-[(4-Methoxyphenyl)sulfonyl]-diazepine-2-carboxylic acid (7b):
The t-butyl 1-[(4-methoxyphenyl)sulfonyl]-5-(t-butoxycarbonyl)-diazepine-2-carboxylate (0.45 g, 0.95 mmol) is dissolved in methylene chloride (1.5 mL) and cooled to 0° C. in an ice bath. Trifluroacetic acid (1.5 mL, 19.0 mmol) was added and the resulting mixture was stirred at 0° C. for 3 hours. The reaction mixture is warmed to room temperature and 1 mL of TFA is added. The reaction mixture is again stirred for an additional hour and the mixture is then concentrated down in vacuo. The residue is carried forward without further purification. The product is obtained as a TFA salt.

reactant | t-butyl 1-[(4-methoxyphenyl)sulfonyl]-5-(t-butoxycarbonyl)-diazepine-2-carboxylate | 0.95 mmol, 0.45 g | COC1=CC=C(C=C1)S(=O)(=O)N1N(CC=C(C=C1)C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C22H30N2O7S
reactant | Trifluroacetic acid | 19.0 mmol, 1.5 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | TFA | 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | methylene chloride | 1.5 mL | C(Cl)Cl | CH2Cl2
product | 1-[(4-Methoxyphenyl)sulfonyl]-diazepine-2-carboxylic acid | COC1=CC=C(C=C1)S(=O)(=O)N1N(CC=CC=C1)C(=O)O | C13H14N2O5S
